US05631356
N-hexadecanoyl phytosphingosine
After stirring for 25 minutes at 25° C., this above-described mixture is added to a pre-prepared stirred suspension containing 4.68 g (11.5 mmoles) of phytosphingosine sulphate (purity 82%) in 15 ml of methylene chloride and 2.1 ml of triethyl amine.

reactant | phytosphingosine sulphate | 11.5 mmoles, 4.68 g | S(=O)(=O)(O)O.OC[C@H](N)[C@H](O)[C@H](O)CCCCCCCCCCCCCC
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | triethyl amine | 2.1 ml | C(C)N(CC)CC | C6H15N
product | N-hexadecanoyl phytosphingosine | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](CO)[C@H](O)[C@H](O)CCCCCCCCCCCCCC | C34H69NO4
